US04335122
2-Chloro-11-hydroxy-6,11-dihydrodibenz[b,e]oxepin (12.75 g; 0.051 mole) is dissolved in dry ether (220 ml) and cooled to 5° C. under a dry nitrogen atmosphere. Thionyl chloride (6.76 g; 0.056 mole) in ether (20 ml) is slowly added dropwise while maintaining the temperature below 5° C. Upon completion of the addition, the reaction is brought to ambient temperature and stirred for three hours. Upon removal of the solvent in vacuo, the resulting solid is recrystallized from cyclohexane to give crystals of 2,11-dichloro-6,11-dihydrodibenz[b,e]oxepin, m.p. 125°-127° C.

reactant | 2-Chloro-11-hydroxy-6,11-dihydrodibenz[b,e]oxepin | 0.051 mole, 12.75 g | ClC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C14H11ClO2
reactant | Thionyl chloride | 0.056 mole, 6.76 g | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 220 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2,11-dichloro-6,11-dihydrodibenz[b,e]oxepin | ClC1=CC2=C(OCC3=C(C2Cl)C=CC=C3)C=C1 | C14H10Cl2O
